US03959374
Due to these disadvantages and others, the utilization of catalysts containing metallic ruthenium has become preferred in the art in such hydrogenation processes as described in U.S. Pat. Nos. 2,606,924; 2,606,925; 2,494,563; 3,347,917; 3,676,495; and others. U.S. Pat. No. 2,606,924 to Whitman (1952) and U.S. Pat. No. 2,494,563 to Kirk, et al. (1950) describe processes for the preparation of certain stereoisomeric bis (4-aminocyclohexyl)methanes by the hydrogenation of bis(4-aminophenyl)methane with a ruthenium metal catalyst in the presence or absence of volatile organic solvent. More particularly, Whitman (2,606,924) discloses that steroisomeric bis(4-aminocyclohexyl)methane mixtures liquid at normal temperatures can be produced by the hydrogenation of bis(4-aminophenyl)methane at a temperature of 75°-125°C. and a pressure of between 100-15,000 psi in the presence of a ruthenium catalyst. Kirk, et al. (2,494,563) teach that the hydrogenation of bis(4-aminophenyl)methane in the presence of a ruthenium catalyst at temperatures between 140°-250°C. and pressures above 500 psi, e.g., 1,500-3,500 psi, results in a reaction product which, upon distillation and redistillation in vacuo, provides stereoisomeric bis (4-aminocyclohexyl)methane mixtures having a freezing point above 40°C.

reactant | bis(4-aminophenyl)methane | NC1=CC=C(C=C1)CC1=CC=C(C=C1)N | C13H14N2
catalyst | ruthenium | [Ru] | Ru
product | bis (4-aminocyclohexyl)methane | NC1CCC(CC1)CC1CCC(CC1)N | C13H26N2
